US06818631B1
2,4-Dichloro-5-fluoro-6-trifluoromethylpyrimidine (2.74 g) was dissolved in acetonitrile (30 ml) and imidazole (3.97 g) was added at room temperature with stirring. The mixture was stirred over night and then the solvent was removed under reduced pressure. The residue was added water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and brine, respectively and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was triturated with carbon tetrachloride to give crude, 5-fluoro-2,4-diimidazol-1-yl-6-trifluoromethylpyrimidine. It was recrystallized from isopropanol as colorless crystalline solid, mp 142-150° C. (decomposed).

reactant | 2,4-Dichloro-5-fluoro-6-trifluoromethylpyrimidine | 2.74 g | ClC1=NC(=C(C(=N1)Cl)F)C(F)(F)F | C5Cl2F4N2
reactant | imidazole | 3.97 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 5-fluoro-2,4-diimidazol-1-yl-6-trifluoromethylpyrimidine | FC=1C(=NC(=NC1C(F)(F)F)N1C=NC=C1)N1C=NC=C1 | C11H6F4N6
